US08703946B2
Rac-2-(2-tert-butoxycarbonylamino-propyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (5.58 g, 5.53 mmol, 40% pure) was dissolved in a 4N solution of HCl in 1,4-dioxane (40 mL) under N2 at 0° C. The mixture was stirred at room temperature for 3 hours. The mixture was basified with a saturated solution of Na2CO3 and the mixture stirred at room temperature for 3 days. Then the mixture was diluted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 70/30). The desired fractions were collected and the solvents evaporated in vacuo to yield rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one (1.52 g, 91% yield) as a white solid.

reactant | Rac-2-(2-tert-butoxycarbonylamino-propyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 5.53 mmol, 5.58 g | C(C)OC(=O)C=1N(N=C(C1)COC1=CC=CC=C1)CC(C)NC(=O)OC(C)(C)C | C21H29N3O5
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | Cl | ClH
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | rac-6-methyl-2-phenoxymethyl-6,7-dihydro-5H-pyrazolo[1,5-a]pyrazin-4-one | 1.52 g, 91% yield | CC1NC(C=2N(C1)N=C(C2)COC2=CC=CC=C2)=O | C14H15N3O2
